US07179836B2
Crude 2-amino-4-(4-amino-phenyl)-thiophene-3-carboxylic acid amide (0.15 mmoles, 1 eq) is dissolved in 5 mL THF and treated with 400 μL of 0.35 M THF solution of 5-indanyl isocyanate (0.15 mmoles, 1 eq). When the reaction is complete, as judged by TLC analysis, the reaction mixture is diluted with 1 mL methanol and 1 mL triethylamine, stirred for 30 minutes, and concentrated to dryness. The residue is purified by prep HPLC yielding pure 2-amino-4-[4-(3-indan-5-yl-ureido)-phenyl]-thiophene-3-carboxylic acid amide.

reactant | 2-amino-4-(4-amino-phenyl)-thiophene-3-carboxylic acid amide | 0.15 mmoles, 1 eq | NC=1SC=C(C1C(=O)N)C1=CC=C(C=C1)N | C11H11N3OS
reactant | 5-indanyl isocyanate | 0.15 mmoles, 1 eq | C1CCC2=CC(=CC=C12)N=C=O | C10H9NO
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
solvent | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 0.35 M, 400 μL | C1CCOC1 | C4H8O
product | 2-amino-4-[4-(3-indan-5-yl-ureido)-phenyl]-thiophene-3-carboxylic acid amide | NC=1SC=C(C1C(=O)N)C1=CC=C(C=C1)NC(=O)NC=1C=C2CCCC2=CC1 | C21H20N4O2S
